US05593983
N-Chlorosuccinimide (2.16 g) was added to a solution of (2β,3α,5α)-3-hydroxy-20-[(2-hydroxyethyl)imino]-2-(2,2-dimethyl-4-morpholinyl)pregnan-11-one (8.77 g) in tetrahydrofuran (175 ml). The solution was stirred at room temperature for 2 h and hydrochloric acid (53 ml; 1M) was then added. After stirring at room temperature for 1.25 h, the reaction mixture was poured into water (1 l). The pH was adjusted to 9 with aqueous sodium carbonate and the precipitated solid was filtered off, washed with water and dissolved in dichloromethane. After drying over sodium sulfate, the solvent was removed under reduced pressure and the residue was chromatographed on silica gel. The purified product was crystallised from diethyl ether to give (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione (3.23 g). m.p. 206°-208° C. (dec); [α]D +130.5° (c 0.57).

reactant | N-Chlorosuccinimide | 2.16 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (2β,3α,5α)-3-hydroxy-20-[(2-hydroxyethyl)imino]-2-(2,2-dimethyl-4-morpholinyl)pregnan-11-one | 8.77 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=NCCO)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1N1CC(OCC1)(C)C)C)=O)C | C29H48N2O4
reactant | hydrochloric acid | 1M, 53 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | water | 1 l | O | H2O
product | (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione | 3.23 g | ClCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)N1CC(OCC1)(C)C)O)=O | C27H42ClNO4
